US05430042
Preparation of 5-acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
5-Acetyl-6-methyl-2-mercapto-1H-benzimidazole (4.2 g, 20 mmol) and NaOH (0.8 g, 20 mmol) in H2O (1 ml) were dissolved in 60 ml ethanol. 3,4-dimethoxy-2-chloromethylpyridine hydrochloride (≈17 mmol) as a crude material was added and the mixture was heated to boiling. NaOH (0.7 g, 17 mmol) in H2O (1 ml) was added and the reflux was continued for 6 hours. The solvent was evaporated off and the residue was diluted with methylene chloride and water. The organic phase was dried over Na2SO4 and the solvent was removed under reduced pressure. Crystallizing from acetonitrile gave the title compound, (3.75 g, 62%).

reactant | 5-Acetyl-6-methyl-2-mercapto-1H-benzimidazole | 20 mmol, 4.2 g | C(C)(=O)C1=CC2=C(NC(=N2)S)C=C1C | C10H10N2OS
reactant | NaOH | 20 mmol, 0.8 g | [OH-].[Na+]
reactant | 3,4-dimethoxy-2-chloromethylpyridine hydrochloride | ≈17 mmol | Cl.COC=1C(=NC=CC1OC)CCl
reactant | NaOH | 17 mmol, 0.7 g | [OH-].[Na+]
solvent | H2O | 1 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | H2O | 1 ml | O | H2O
product | 5-acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 3.75 g, 62% | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1C | C18H19N3O3S
